US07122627B2
Pinanediol (2-benzyloxy-1-chloropropyl)boronate.
CH2Cl2 (0.80 mL, 12.7 mmol) was added to THF (40 mL) and cooled to −100° C. n-BuLi (1.6 N, 6.3 mL) was slowly added while maintaining a temperature of −100° C. The flask was stirred at −100° C. for an additional 45 min. Pinanediol (1-benzyloxyethyl)boronate (2.66 g, 8.46 mmol), dissolved in THF (20 mL), was added followed by a solution of zinc(II) chloride in ether (1.0 N, 17 mL). The THF was evaporated and the residue was redissolved in hexanes (150 mL). The solution was washed with saturated aqueous ammonium chloride, brine, and dried over MgSO4. It was concentrated to give a light oil. This oil was purified by silica gel column chromatography (10% ethyl acetate/90% hexanes eluant) to yield 1.55 g (51%) of a clear oil. 1H-NMR (CDCl3)δ 7.36 (m, 5H), 4.58 (m, 2H), 4.37 (d, 1H), 3.91 (m, 1H), 3.56 (d, 2H), 2.39-1.81 (m, 6H), 1.40 (d, 3H), 1.34 (d, 3H), 1.29 (s, 3H), 0.84 (s, 3H).

reactant | CH2Cl2 | 12.7 mmol, 0.80 mL | C(Cl)Cl | CH2Cl2
reactant | n-BuLi | 1.6 N, 6.3 mL | [Li]CCCC
reactant | Pinanediol (1-benzyloxyethyl)boronate | 8.46 mmol, 2.66 g | C(C1=CC=CC=C1)OC(C)B(O)O.C12(C(CCC(C1(C)C)C2)(C)O)O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ether | 1.0 N, 17 mL | CCOCC | C4H10O
catalyst | zinc(II) chloride | [Cl-].[Zn+2].[Cl-]
product | Pinanediol (2-benzyloxy-1-chloropropyl)boronate | 1.55 g, 51% | C(C1=CC=CC=C1)OC(C(Cl)B(O)O)C.C12(C(CCC(C1(C)C)C2)(C)O)O | InChI=1S/C10H14BClO3.C10H18O2/c1-8(10(12)11(13)14)15-7-9-5-3-2-4-6-9;1-8(2)7-4-5-9(3,11)10(8,12)6-7/h2-6,8,10,13-14H,7H2,1H3;7,11-12H,4-6H2,1-3H3
